US04604402
(g) 1-[[[(3S)-3-(Benzoylamino)-2-hydroxy-4-phenylbutyl]methylamino]carbonyl]-L-proline (isomer A)
A mixture of 1-[[[(3S)-3-(benzoylamino)-2-hydroxy-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester (isomer A) (790 mg., 149 mmole), palladium hydroxide on carbon catalyst (110 mg.) and ethanol: ethyl acetate (1:1, 20 ml.) is stirred under hydrogen gas (balloon) for one hour. The solution is filtered (millipore), and the solvent removed at reduced pressure to give the desired product as a colorless solid. Drying under vacuum over phosphorus pentoxide yields 569 mg. of 1-[[[(3S)-3-(benzoylamino)-2-hydroxy-4-phenylbutyl]methylamino]carbonyl]-L-proline (isomer A); m.p. 108°-117°; [α]D20 =-77.5° (c=1.4, methanol). TLC (silica gel; chloroform:methanol:acetic acid; 18:1:1) Rf =0.39, trace at Rf =0.58.

reactant | 1-[[[(3S)-3-(benzoylamino)-2-hydroxy-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | C(C1=CC=CC=C1)(=O)N[C@H](C(CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)O)CC1=CC=CC=C1 | C31H35N3O5
catalyst | palladium hydroxide on carbon | 110 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol ethyl acetate | 20 ml | C(C)O.C(C)(=O)OCC
product | 1-[[[(3S)-3-(Benzoylamino)-2-hydroxy-4-phenylbutyl]methylamino]carbonyl]-L-proline | C(C1=CC=CC=C1)(=O)N[C@H](C(CN(C(=O)N1[C@H](C(=O)O)CCC1)C)O)CC1=CC=CC=C1 | C24H29N3O5
